US04812459
2,2-Dimethyl-2H-pyrano[3,2-c]pyridine
p-Hydroxypyridine (32.0 g), 40% benzyltrimethylammonium hydroxide in MeOH (50.7 g) and 3-methyl-3-chlorobut-1-yne (37.4 g) were dissolved in CH2Cl2 (150 mL). To this stirred solution was added NaOH pellets (14.5 g) dissolved in H2O (150 mL) and the resulting mixture stirred vigorously at room temperature for 3.75 days. The layers were separated and the aqueous layer further extracted with CHCl3. The combined organic layers were evaporated and the resulting brown oil was taken up in Et2O and washed with 10% NaOH solution, H20 and brine before drying over anh. MgSO4. Filtration and evaporation yielded an orange oil (21.0 g) which was boiled in o-dichlorobenzene under N2 for 1 h. Evaporation of the solvent and distillation gave the title pyranopyridine (9.2 g): bp 110° C. /0.18 mmHg; NMR (CDCl3) δ 1.47 (s, 6H)

reactant | p-Hydroxypyridine | 32.0 g | OC1=CC=NC=C1 | C5H5NO
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 3-methyl-3-chlorobut-1-yne | 37.4 g | CC(C#C)(C)Cl | C5H7Cl
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 50.7 g | CO | CH4O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 150 mL | O | H2O
product | 2,2-Dimethyl-2H-pyrano[3,2-c]pyridine | 21.0 g | CC1(C=CC=2C=NC=CC2O1)C | C10H11NO
